US09163003B2
{(S)-3-[4-(4-Methoxy-3-methyl-benzoyl)-piperidin-1-yl]-2-oxo-pyrrolidin-1-yl}-acetonitrile
To a solution of (S)-3-[4-(4-methoxy-3-methyl-benzoyl)-piperidin-1-yl]-pyrrolidin-2-one (6.32 mmol, 2.0 g) and bromoacetonitrile (18.96 mmol, 2.275 g) in THF (60 mL) at 0° C. was added sodium hydride (60%, 18.96 mmol, 0.76 g) and allowed to stir under N2 for 1 hour. Allowed to warm to ambient temperature and chloroacetonitrile (2 mL) was added. After 30 min the reaction was cooled to 0° C. and quenched with saturated ammonium chloride solution. Flash column chromatography (silica) was performed eluting with 3% MeOH/ethyl acetate to 15% MeOH/ethyl acetate and provided the title compound as an red-brown foam (1.6 g, 71.2% yield). Calculated molecular formula=C20H25N3O3=355.4406. found MS (ESI) m/e 356.6 (M+H+); analytical RP-HPLC (Novapak 150×3.9 mm C18 column: mobile phase: 10-90% acetonitrile/water with 0.1% TFA, at 2 mL/min over 5 min.) retention time=2.831 min.

reactant | (S)-3-[4-(4-methoxy-3-methyl-benzoyl)-piperidin-1-yl]-pyrrolidin-2-one | 6.32 mmol, 2.0 g | COC1=C(C=C(C(=O)C2CCN(CC2)[C@@H]2C(NCC2)=O)C=C1)C | C18H24N2O3
reactant | bromoacetonitrile | 18.96 mmol, 2.275 g | BrCC#N | C2H2BrN
reactant | sodium hydride | 18.96 mmol, 0.76 g | [H-].[Na+]
reactant | chloroacetonitrile | 2 mL | ClCC#N | C2H2ClN
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | {(S)-3-[4-(4-Methoxy-3-methyl-benzoyl)-piperidin-1-yl]-2-oxo-pyrrolidin-1-yl}-acetonitrile | 1.6 g, 71.2% yield | COC1=C(C=C(C(=O)C2CCN(CC2)[C@@H]2C(N(CC2)CC#N)=O)C=C1)C | C20H25N3O3
